US04853381
1-[3-[2-(Acetyloxy)ethyl]-4-hydroxyphenyl]-2-bromoethanone
A solution of bromine (0.8 ml, 2.5g) in chloroform (20 ml) was added over 20 min to a stirred solution of 1-[3-[2-(acetyloxy)ethyl]-4-hydroxyphenyl]ethanone (3.26 g ) in chloroform (50 ml) containing a few drops of 45% hydrogen bromide in acetic acid. The red solution was diluted with ER (200 ml) washed with water (100 ml), 8% sodium bicarbonate (100 ml), brine (100 ml), dried and evaporated to give the title compound as an oil which solidified on standing to give a pale pink solid (4.1 g) m.p. 89°-92°. Two recrystallisations from chloroform gave a sample with m.p. 98°-99°.

reactant | bromine | 0.8 ml, 2.5g | BrBr | Br2
reactant | 1-[3-[2-(acetyloxy)ethyl]-4-hydroxyphenyl]ethanone | 3.26 g | C(C)(=O)OCCC=1C=C(C=CC1O)C(C)=O | C12H14O4
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | hydrogen bromide | a few drops | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[3-[2-(Acetyloxy)ethyl]-4-hydroxyphenyl]-2-bromoethanone | C(C)(=O)OCCC=1C=C(C=CC1O)C(CBr)=O | C12H13BrO4
